US06833480B2
A solution of 3,4-dihydroxyphenylacetylene (0.02 mol), 2-chloro-4-methoxybenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) is subjected to the General Procedure to form (Z)-3,4-dihydroxystyryl-2-chloro-4-methoxybenzylsulfide. The title compound is obtained following oxidation of the sulfide, according to the General Procedure.

reactant | 3,4-dihydroxyphenylacetylene | 0.02 mol | OC=1C=C(C=CC1O)C#C | C8H6O2
reactant | 2-chloro-4-methoxybenzyl mercaptan | 0.02 mol | ClC1=C(CS)C=CC(=C1)OC | C8H9ClOS
reactant | sodium | 0.02 g | [Na] | Na
product | (Z)-3,4-dihydroxystyryl-2-chloro-4-methoxybenzylsulfide | OC=1C=C(\C=C/C(C2=C(C=C(C=C2)OC)Cl)SC(C2=C(C=C(C=C2)OC)Cl)\C=C/C2=CC(=C(C=C2)O)O)C=CC1O | C32H28Cl2O6S
